US06696470B2
1,3-Di(4-pyridyl)-5,6-dihydro-4H-cyclopenta(c)thiophen-4-one (step 6)
To a stirred solution of 1,3-dichloro-5,6-dihydro-4H-cyclopenta(c)thiophen-4-one (923 mg, 4.45 mmol) in dimethoxyethane (23 mL) was added 4-pyridineboronic acid (1.3 g, 10.6 mmol), saturated aqueous NaHCO3 solution (7.5 mL), and bis(triphenylphosphine)palladium chloride (350 mg, 0.49 mmol) under nitrogen. The mixture was heated at reflux temperature for 36 hours. The reaction mixture wvas filtered through celite and the filtrate was extracted with ethyl acetate (100 mL×5). The combined organic layer was washed with brine (100 mL), dried over MgSO4, and concentrated in vacuo. Chromatographic purification eluting with dichloromethane/methanol (25:1) and the subsequent recrystallization from ethyl acetate/hexane gave the title compound (645 mg, 50% yield) as yellow solids.

reactant | 1,3-dichloro-5,6-dihydro-4H-cyclopenta(c)thiophen-4-one | 4.45 mmol, 923 mg | ClC=1SC(=C2C1CCC2=O)Cl | C7H4Cl2OS
reactant | 4-pyridineboronic acid | 10.6 mmol, 1.3 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | NaHCO3 | 7.5 mL | C(=O)(O)[O-].[Na+]
solvent | dimethoxyethane | 23 mL | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium chloride | 0.49 mmol, 350 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,3-Di(4-pyridyl)-5,6-dihydro-4H-cyclopenta(c)thiophen-4-one | 645 mg, 50% yield | N1=CC=C(C=C1)C=1SC(=C2C1CCC2=O)C2=CC=NC=C2 | C17H12N2OS
